US06599917B1
d) 2-Methoxy-3-[2-thienylmethyl]pyridine
A mixture of 1.47 g of 2-methoxy-3-[2-thienyl(hydroxy)methyl]pyridine, 3.2 g of zinc iodide, 3.4 g of sodium cyanoborohydride and 30 ml of 1,2-dichloroethane was stirred at room temperature for two nights. Insoluble matters were filtered off, and to the filtrate was added an aqueous sodium hydroxide solution. The mixture was extracted with ethyl acetate, and the organic phase was washed with brine and the solvent was evaporated. Then, the residue was subjected to silica gel column chromatography and eluted with hexane and then with hexane/ethyl acetate (40:1), to give 734 mg of the target compound.

reactant | 2-methoxy-3-[2-thienyl(hydroxy)methyl]pyridine | 1.47 g | COC1=NC=CC=C1C(O)C=1SC=CC1 | C11H11NO2S
reactant | sodium cyanoborohydride | 3.4 g | C(#N)[BH3-].[Na+]
catalyst | zinc iodide | 3.2 g | [I-].[Zn+2].[I-]
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | 2-Methoxy-3-[2-thienylmethyl]pyridine | 734 mg | COC1=NC=CC=C1CC=1SC=CC1 | C11H11NOS
